US07723378B2
A suspension of 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid methyl ester (5.93 g, 25.53 mmol) in methanol (140 mL) and 2 N aq. NaOH (45 mL) is stirred at rt for 1 h. The methanol is evaporated and the aq. solution is extracted twice with DCM. The aq. layer is acidified with 37% aq. HCl. The precipitate that forms is collected, washed with water and dried. The product is further purified by recrystallisation from EA (100 mL) to give 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid (4.2 g) as yellow crystals; LC-MS: tR=0.87 min.

reactant | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid methyl ester | 25.53 mmol, 5.93 g | COC(C=CC1=C(C=C(C=C1C)C=O)CC)=O | C14H16O3
solvent | methanol | 140 mL | CO | CH4O
solvent | NaOH | 2 N, 45 mL | [OH-].[Na+]
product | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-acrylic acid | 4.2 g | C(C)C1=C(C(=CC(=C1)C=O)C)C=CC(=O)O | C13H14O3
